US07790725B2
Ethyl trifluoroacetate (6.32 g) was dissolved in tert-butyl methyl ether (10 mL) and a 28% sodium methoxide-methanol solution (9.40 g) and a solution of 4-acetylpyridine (4.90 g) in tert-butyl methyl ether (20 mL) were added successively at room temperature. The mixture was stirred for 22 hr. A 10% a aqueous citric acid solution was added until the reaction solution became about pH 4, and the precipitate was collected by filtration, washed with water and dried to give 4-trifluoroacetoacetylpyridine (5.46 g) as a yellow solid.

reactant | Ethyl trifluoroacetate | 6.32 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium methoxide methanol | 9.40 g | C[O-].[Na+].CO
reactant | 4-acetylpyridine | 4.90 g | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tert-butyl methyl ether | 10 mL | COC(C)(C)C | C5H12O
solvent | tert-butyl methyl ether | 20 mL | COC(C)(C)C | C5H12O
product | 4-trifluoroacetoacetylpyridine | 5.46 g | FC(C(CC(=O)C1=CC=NC=C1)=O)(F)F | C9H6F3NO2
